US07319103B2
A mixture of 10-[4-(3-chloro-propoxy)-phenyl]-6,7,8,9-tetrahydro-5H-1,4,10a-triaza-cyclohepta[f]indene (50 mg, 0.2 mmol), 2-methyl-pyrrolidine (71 mg, 1.0 mmol) and K2CO3 (45 mg, 0.3 mmol) in DMF (1 mL) was stirred at 80° C. overnight. The reaction was cooled, diluted with EtOAc (3 mL) and washed with H2O, brine, dried over MgSO4, and concentrated. The residue was purified by preparative LCMS to give 10-{4-[3-(2-methyl-pyrrolidin-1-yl)-propoxy]-phenyl}-6,7,8,9-tetrahydro-5H-1,4,10a-triaza-cyclohepta[f]indene (33 mg, 66% yield).

reactant | 10-[4-(3-chloro-propoxy)-phenyl]-6,7,8,9-tetrahydro-5H-1,4,10a-triaza-cyclohepta[f]indene | 0.2 mmol, 50 mg | ClCCCOC1=CC=C(C=C1)C=1N2N=CC=C2N=C2C1CCCCC2 | C20H22ClN3O
reactant | 2-methyl-pyrrolidine | 1.0 mmol, 71 mg | CC1NCCC1 | C5H11N
reactant | K2CO3 | 0.3 mmol, 45 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 3 mL | CCOC(=O)C | C4H8O2
product | 10-{4-[3-(2-methyl-pyrrolidin-1-yl)-propoxy]-phenyl}-6,7,8,9-tetrahydro-5H-1,4,10a-triaza-cyclohepta[f]indene | 33 mg, 66% yield | CC1N(CCC1)CCCOC1=CC=C(C=C1)C=1N2N=CC=C2N=C2C1CCCCC2 | C25H32N4O
